US07968727B2
4′-bromomethyl-2-hydroxymethylbiphenyl (II)
To 60.8 ml (0.0735 mol) of diisobutylaluminium hydride in toluene (20 wt % solution) at 0° C. under argon atmosphere 10.8 g (0.0354 mol) of 4′-bromomethylbiphenyl-2-carboxylic acid methyl ester is added dropwise in a period of 30 minutes. Stirring is continued for 2 hours at the temperature between 0° C. and −5° C. Thereafter 300 ml of 1 M hydrochloric acid and 100 ml of toluene are added under stirring, layers are separated and organic layer washed 3 times with 150 ml of water. After drying with MgSO4 and evaporating under reduced pressure, 9.28 g of white crystalline powder is isolated.

reactant | diisobutylaluminium hydride | 0.0735 mol, 60.8 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4′-bromomethylbiphenyl-2-carboxylic acid methyl ester | 0.0354 mol, 10.8 g | COC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CBr | C15H13BrO2
reactant | hydrochloric acid | 1 M, 300 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4′-bromomethyl-2-hydroxymethylbiphenyl | 9.28 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)CO | C14H13BrO
